US08017792B2
1.6 M n-butylithium hexane solution (26.9 mL) was added to a mixture of benzo[b]thiophene (5.8 g, 0.043 mol) and tetrahydrofuran (58 mL) at −78° C. over 20 minutes. After stirred for 0.5 hours, the mixture was added with a tetrahydrofuran (50 mL) solution of 5-bromo-2-chlorobenzaldehyde (9.0 g, 0.041 mol) and stirred for further five minutes. The reaction mixture was warmed to room temperature. After the reaction mixture was added with a saturated ammonium chloride aqueous solution and extracted with ethyl acetate, the organic phase was washed with brine and then dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain pale yellow oily (1-benzothien-2-yl)(5-bromo-2-chlorophenyl)methanol (10.3 g, 71%).

reactant | hexane | 1.6 M, 26.9 mL | CCCCCC | C6H14
reactant | benzo[b]thiophene | 0.043 mol, 5.8 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | 5-bromo-2-chlorobenzaldehyde | 0.041 mol, 9.0 g | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 58 mL | O1CCCC1 | C4H8O
product | (1-benzothien-2-yl)(5-bromo-2-chlorophenyl)methanol | 10.3 g, 71% | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)Cl | C15H10BrClOS
